US04348264
Freshly prepared pivaloyloxymethyl 2-methyl-1-oxo-6-(2-phenoxyacetamido)carbapen-2-em-3-carboxylate (prepared from 200 mg. of pivaloyloxymethyl 2-diazo-3-methyl-1-beta-oxo-7-(2-phenoxyacetamido)ceph-3-em-4-carboxylate (incorporating a 2 g. Raney nickel treatment into the isolation step) was taken up in 1 ml. of tetrahydrofuran and added to a stirred slurry of 2 g. of specially activated zinc powder (Example 2), in 6 ml. of acetic acid containing 30% tetrahydrofuran maintained at 0°-5° C. After stirring for 1 hour at this temperature, the reaction mixture was diluted with toluene and evaporated to dryness in vacuo to yield pivaloyloxymethyl 2-methyl-1-oxo-6-(2-phenoxyacetamido)carbapenam-3-carboxylate [Rf 0.34 (9:1 chloroform:ethyl acetate; ir (CH2Cl2) 1790, 1750, 1680 cm-1 ].

reactant | pivaloyloxymethyl 2-methyl-1-oxo-6-(2-phenoxyacetamido)carbapen-2-em-3-carboxylate | CC=1C([C@H]2N(C1C(=O)OCOC(C(C)(C)C)=O)C(C2NC(COC2=CC=CC=C2)=O)=O)=O | C22H24N2O8
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | Raney nickel | [Ni] | Ni
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | zinc | [Zn] | Zn
product | pivaloyloxymethyl 2-methyl-1-oxo-6-(2-phenoxyacetamido)carbapenam-3-carboxylate | CC1C([C@H]2N(C1C(=O)OCOC(C(C)(C)C)=O)C(C2NC(COC2=CC=CC=C2)=O)=O)=O | C22H26N2O8
